US04362728
2,2,2-Trifluoroethylisothiocyanate (3.4 g.) was added to a solution of 3-amino-1-(2-cyanoethyl)-pyrazole (2.72 g.) in acetonitrile (10 ml.) and the solution left at room temperature for 18 hours. The mixture was evaporated to dryness and the residue recrystallised from ethanol to give 3-[3-(2,2,2-trifluoroethyl)thioureido]-1-(2-cyanoethyl)pyrazole, m.p. 164°-165°.

reactant | 2,2,2-Trifluoroethylisothiocyanate | 3.4 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | 3-amino-1-(2-cyanoethyl)-pyrazole | 2.72 g | NC1=NN(C=C1)CCC#N | C6H8N4
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-[3-(2,2,2-trifluoroethyl)thioureido]-1-(2-cyanoethyl)pyrazole | FC(CNC(NC1=NN(C=C1)CCC#N)=S)(F)F | C9H10F3N5S
